US06660744B1
A solution of 3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.452 g, 0.00149 mol) in N,N-dimethylformamide (10 mL) was reacted with cis 3-[(benzyloxy)methyl]cyclobutyl methanesulfonate (0.483 g, 0.00179 mol) and cesium carbonate (0.582 g, 0.00179 mol) at 70° C. for two days. The reaction mixture was poured into water (30 mL) and extracted with ethyl acetate (3×15 mL). The combined organic layers were washed with water (2×20 mL) and brine (20 mL). The organic layer was dried over magnesium sulfate and the solvent was removed in vacuo. The residue was purified by flash column chromatography on silica using dichloromethane/methanol (98:2). The solvent was removed in vacuo to give trans 1-{3-[(benzyloxy)methyl]cyclobutyl}-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.325 g, 0.000681 mol) as a tan solid.

reactant | 3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.00149 mol, 0.452 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=NNC2=NC=NC(=C21)N | C17H13N5O
reactant | cis 3-[(benzyloxy)methyl]cyclobutyl methanesulfonate | 0.00179 mol, 0.483 g | CS(=O)(=O)O[C@@H]1C[C@@H](C1)COCC1=CC=CC=C1 | C13H18O4S
reactant | cesium carbonate | 0.00179 mol, 0.582 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 30 mL | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | trans 1-{3-[(benzyloxy)methyl]cyclobutyl}-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.000681 mol, 0.325 g | C(C1=CC=CC=C1)OC[C@@H]1C[C@H](C1)N1N=C(C=2C1=NC=NC2N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C29H27N5O2
